US09023846B2
Step F: 3-tert-Butyl-4-chloro-N-(6-(2-chlorophenyl)-2-methoxy-3-nitropyridin-4-yl)-1-methyl-1H-pyrazole-5-carboxamide
A 5 L, four neck round bottom flask equipped with mechanical stirrer, nitrogen inlet, addition funnel with stopper, and thermocouple was charged 6-(2-chlorophenyl)-2-methoxy-3-nitropyridin-4-amine (111.40 g, 0.398 mol) and tetrahydrofuran (1.90 L). The resulting mixture was cooled to 3° C. in ice-water bath and then treated with sodium hydride (31.85 g, 0.796 mol) carefully in one portion with an exotherm to 7° C. observed, to yield a deep-red slurry. This slurry was chilled to 1° C. and a solution of 3-tert-butyl-1-methyl-1H-pyrazole-4-carbonyl chloride (113.05 g, 0.438 mol) in tetrahydrofuran (0.275 L) was added dropwise via addition funnel over 30 min, with an exotherm to 10° C. observed. The ice bath was drained and the resulting mixture reached 8° C. over 30 min. The resulting mixture was then poured into saturated ammonium chloride (2.5 L) and extracted with ethyl acetate (2 L, 2×1 L). The combined organics were washed with brine (1 L) and dried (MgSO4) overnight, protecting from light. The organic phases were concentrated to yield a the title compound as a residue. The residue was triturated with heptane (2.25 L) at 60° C. for 30 min, and the resulting mixture cooled to room temperature while protecting from light. The resulting solids were collected by filtration, washed with heptane (250 mL), and dried in a vacuum oven (50° C.) for 5 h to yield 3-tert-butyl-4-chloro-N-(6-(2-chlorophenyl)-2-methoxy-3-nitropyridin-4-yl)-1-methyl-1H-pyrazole-5-carboxamide as a yellow solid. 1H NMR (400 MHz, CHLOROFORM-d) δ 1.41 (s, 9H), 4.10 (s, 3H), 4.12 (s, 3H), 7.34-7.43 (m, 2H), 7.47-7.55 (m, 1H), 7.60-7.68 (m, 1H), 8.49 (s, 1H), 10.13 (br. s., 1H)

reactant | 6-(2-chlorophenyl)-2-methoxy-3-nitropyridin-4-amine | 0.398 mol, 111.40 g | ClC1=C(C=CC=C1)C1=CC(=C(C(=N1)OC)[N+](=O)[O-])N | C12H10ClN3O3
reactant | sodium hydride | 0.796 mol, 31.85 g | [H-].[Na+]
reactant | 3-tert-butyl-1-methyl-1H-pyrazole-4-carbonyl chloride | 0.438 mol, 113.05 g | C(C)(C)(C)C1=NN(C=C1C(=O)Cl)C | C9H13ClN2O
reactant | ammonium chloride | 2.5 L | [Cl-].[NH4+]
reactant | tetrahydrofuran | 0.275 L | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 1.90 L | O1CCCC1 | C4H8O
product | 3-tert-Butyl-4-chloro-N-(6-(2-chlorophenyl)-2-methoxy-3-nitropyridin-4-yl)-1-methyl-1H-pyrazole-5-carboxamide | C(C)(C)(C)C1=NN(C(=C1Cl)C(=O)NC1=C(C(=NC(=C1)C1=C(C=CC=C1)Cl)OC)[N+](=O)[O-])C | C21H21Cl2N5O4
